US06011028
6-(cyclohexylmethyl)piperidin-2-imine, monohydrochloride
The 2-amino-6-benzylpyridine was reduced as in Example 94, except platinum oxide was used as the catalyst. The product was obtained as an oil which was dissolved in 1 N HCl and lyophilized to give a white solid. The solid was recrystallized from EtOAc to give the desired title compound as white crystals. The analysis of the product was found to be consistent with the proposed structure.

reactant | 2-amino-6-benzylpyridine | NC1=NC(=CC=C1)CC1=CC=CC=C1 | C12H12N2
reactant | HCl | 1 N | Cl | ClH
catalyst | platinum oxide | [Pt]=O
product | 6-(cyclohexylmethyl)piperidin-2-imine, monohydrochloride | Cl.C1(CCCCC1)CC1CCCC(N1)=N | InChI=1S/C12H22N2.ClH/c13-12-8-4-7-11(14-12)9-10-5-2-1-3-6-10;/h10-11H,1-9H2,(H2,13,14);1H
